* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.019999992902442896
Fd1_1 0 s1 V1 0.9999996451221448
Gr1_1_1 0 s1 x1_a1 0 -288393521709.58
Gr2_re_1_1 0 s1 x2_re_a1 0 2775468701.551246
Gr2_im_1_1 0 s1 x2_im_a1 0 -68329216912.05187
Gr3_re_1_1 0 s1 x3_re_a1 0 -0.27196255792771534
Gr3_im_1_1 0 s1 x3_im_a1 0 0.042120516191265576
Gr4_re_1_1 0 s1 x4_re_a1 0 -0.0023684102041354694
Gr4_im_1_1 0 s1 x4_im_a1 0 -0.03031749852183712
Gr5_re_1_1 0 s1 x5_re_a1 0 -0.003916004262785555
Gr5_im_1_1 0 s1 x5_im_a1 0 0.008680487436879592
Gd1_2 0 s1 p2 0 -1.2830639490809607e-08
Fd1_2 0 s1 V2 -6.415319745404804e-07
Gr1_1_2 0 s1 x1_a2 0 67283325971.733795
Gr2_re_1_2 0 s1 x2_re_a2 0 -33641567676.202885
Gr2_im_1_2 0 s1 x2_im_a2 0 -62285906876.78812
Gr3_re_1_2 0 s1 x3_re_a2 0 0.1918619856980179
Gr3_im_1_2 0 s1 x3_im_a2 0 -0.192366110516807
Gr4_re_1_2 0 s1 x4_re_a2 0 0.10272690189959124
Gr4_im_1_2 0 s1 x4_im_a2 0 -0.0038305456781595605
Gr5_re_1_2 0 s1 x5_re_a2 0 0.10686338159067085
Gr5_im_1_2 0 s1 x5_im_a2 0 -0.048204517458043404
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.3341825501772294e-12
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 5.770599660169629e-12
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 137795664673.9698
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -137795664673.9698
Rp2_im_im_a1 0 x2_im_a1 5.770599660169629e-12
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 2.1005724157723768e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 61401014197.528496
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -61401014197.528496
Rp3_im_im_a1 0 x3_im_a1 2.1005724157723768e-10
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.1642918892919444e-09
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 35567400200.46027
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -35567400200.46027
Rp4_im_im_a1 0 x4_im_a1 1.1642918892919444e-09
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 6.445586965688575e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 13516049077.004795
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -13516049077.004795
Rp5_im_im_a1 0 x5_im_a1 6.445586965688575e-10
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -1.2830639490809607e-08
Fd2_1 0 s2 V1 -6.415319745404804e-07
Gr1_2_1 0 s2 x1_a1 0 67283325971.733795
Gr2_re_2_1 0 s2 x2_re_a1 0 -33641567676.202885
Gr2_im_2_1 0 s2 x2_im_a1 0 -62285906876.78812
Gr3_re_2_1 0 s2 x3_re_a1 0 0.1918619856980179
Gr3_im_2_1 0 s2 x3_im_a1 0 -0.192366110516807
Gr4_re_2_1 0 s2 x4_re_a1 0 0.10272690189959124
Gr4_im_2_1 0 s2 x4_im_a1 0 -0.0038305456781595605
Gr5_re_2_1 0 s2 x5_re_a1 0 0.10686338159067085
Gr5_im_2_1 0 s2 x5_im_a1 0 -0.048204517458043404
Gd2_2 0 s2 p2 0 0.01999998328983244
Fd2_2 0 s2 V2 0.9999991644916222
Gr1_2_2 0 s2 x1_a2 0 -15696979495.06925
Gr2_re_2_2 0 s2 x2_re_a2 0 -62862073316.52458
Gr2_im_2_2 0 s2 x2_im_a2 0 -37660440126.75508
Gr3_re_2_2 0 s2 x3_re_a2 0 0.9436303035921196
Gr3_im_2_2 0 s2 x3_im_a2 0 -0.16994719153232893
Gr4_re_2_2 0 s2 x4_re_a2 0 -0.0032031575605565342
Gr4_im_2_2 0 s2 x4_im_a2 0 0.006334169791706004
Gr5_re_2_2 0 s2 x5_re_a2 0 0.019830669684143442
Gr5_im_2_2 0 s2 x5_im_a2 0 -0.020249246173361123
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.3341825501772294e-12
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 5.770599660169629e-12
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 137795664673.9698
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -137795664673.9698
Rp2_im_im_a2 0 x2_im_a2 5.770599660169629e-12
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 2.1005724157723768e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 61401014197.528496
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -61401014197.528496
Rp3_im_im_a2 0 x3_im_a2 2.1005724157723768e-10
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.1642918892919444e-09
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 35567400200.46027
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -35567400200.46027
Rp4_im_im_a2 0 x4_im_a2 1.1642918892919444e-09
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 6.445586965688575e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 13516049077.004795
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -13516049077.004795
Rp5_im_im_a2 0 x5_im_a2 6.445586965688575e-10
.ENDS s_equivalent
