* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.0027260181380065578
Fd1_1 0 s1 V1 -0.1363009069003279
Gr1_re_1_1 0 s1 x1_re_a1 0 3684640389.9615493
Gr1_im_1_1 0 s1 x1_im_a1 0 -195717735.6516064
Gr2_re_1_1 0 s1 x2_re_a1 0 -142943916.5319176
Gr2_im_1_1 0 s1 x2_im_a1 0 -2560810685.8158464
Gr3_re_1_1 0 s1 x3_re_a1 0 89990082.1312498
Gr3_im_1_1 0 s1 x3_im_a1 0 -26392156.3865176
Gd1_2 0 s1 p2 0 -1.8479031508397678e-05
Fd1_2 0 s1 V2 -0.0009239515754198838
Gr1_re_1_2 0 s1 x1_re_a2 0 1332814.8001953652
Gr1_im_1_2 0 s1 x1_im_a2 0 4985387.587754448
Gr2_re_1_2 0 s1 x2_re_a2 0 14088414.632901642
Gr2_im_1_2 0 s1 x2_im_a2 0 6234181.652078993
Gr3_re_1_2 0 s1 x3_re_a2 0 13123180.015659563
Gr3_im_1_2 0 s1 x3_im_a2 0 -12151571.59346446
Gd1_3 0 s1 p3 0 -1.907723641551654e-08
Fd1_3 0 s1 V3 -9.538618207758272e-07
Gr1_re_1_3 0 s1 x1_re_a3 0 -1356.604179339236
Gr1_im_1_3 0 s1 x1_im_a3 0 -30217.661965307285
Gr2_re_1_3 0 s1 x2_re_a3 0 12876.423378942223
Gr2_im_1_3 0 s1 x2_im_a3 0 1018.6861461178125
Gr3_re_1_3 0 s1 x3_re_a3 0 -32.187132067487724
Gr3_im_1_3 0 s1 x3_im_a3 0 -399.71326499396
Gd1_4 0 s1 p4 0 1.911414210254182e-08
Fd1_4 0 s1 V4 9.55707105127091e-07
Gr1_re_1_4 0 s1 x1_re_a4 0 -7536.5315023064395
Gr1_im_1_4 0 s1 x1_im_a4 0 -1438.446845686782
Gr2_re_1_4 0 s1 x2_re_a4 0 -9040.985750565855
Gr2_im_1_4 0 s1 x2_im_a4 0 20821.08388083716
Gr3_re_1_4 0 s1 x3_re_a4 0 171.4456511157609
Gr3_im_1_4 0 s1 x3_im_a4 0 153.6364204200944
*
* State networks driven by port 1
Cx1_re_a1 x1_re_a1 0 1.0
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562373095
Fx1_re_a1 0 x1_re_a1 V1 7.0710678118654755
Rp1_re_re_a1 0 x1_re_a1 5.49108969419401e-11
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 278779956627.1512
Cx1_im_a1 x1_im_a1 0 1.0
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -278779956627.1512
Rp1_im_im_a1 0 x1_im_a1 5.49108969419401e-11
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 3.868621965856193e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 208527787841.60822
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -208527787841.60822
Rp2_im_im_a1 0 x2_im_a1 3.868621965856193e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.2918818563992312e-09
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 112688420897.11143
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -112688420897.11143
Rp3_im_im_a1 0 x3_im_a1 1.2918818563992312e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -1.8498575699232824e-05
Fd2_1 0 s2 V1 -0.0009249287849616413
Gr1_re_2_1 0 s2 x1_re_a1 0 1335012.6777317044
Gr1_im_2_1 0 s2 x1_im_a1 0 5024315.925683436
Gr2_re_2_1 0 s2 x2_re_a1 0 14125313.487445654
Gr2_im_2_1 0 s2 x2_im_a1 0 6196345.685437723
Gr3_re_2_1 0 s2 x3_re_a1 0 13094526.3877854
Gr3_im_2_1 0 s2 x3_im_a1 0 -12156176.324690057
Gd2_2 0 s2 p2 0 -0.0027089675170503375
Fd2_2 0 s2 V2 -0.13544837585251687
Gr1_re_2_2 0 s2 x1_re_a2 0 3706773358.8808684
Gr1_im_2_2 0 s2 x1_im_a2 0 44351259.834864125
Gr2_re_2_2 0 s2 x2_re_a2 0 47002976.28302293
Gr2_im_2_2 0 s2 x2_im_a2 0 -2707142103.3911366
Gr3_re_2_2 0 s2 x3_re_a2 0 93764757.63853782
Gr3_im_2_2 0 s2 x3_im_a2 0 -9926522.84235351
Gd2_3 0 s2 p3 0 -2.849004119222788e-08
Fd2_3 0 s2 V3 -1.4245020596113941e-06
Gr1_re_2_3 0 s2 x1_re_a3 0 11506.403361700208
Gr1_im_2_3 0 s2 x1_im_a3 0 -9001.655998839116
Gr2_re_2_3 0 s2 x2_re_a3 0 8696.310372313781
Gr2_im_2_3 0 s2 x2_im_a3 0 -17453.317568447677
Gr3_re_2_3 0 s2 x3_re_a3 0 34.77389486409094
Gr3_im_2_3 0 s2 x3_im_a3 0 -191.56431868139134
Gd2_4 0 s2 p4 0 4.249879114397472e-09
Fd2_4 0 s2 V4 2.124939557198736e-07
Gr1_re_2_4 0 s2 x1_re_a4 0 -30035.452361762145
Gr1_im_2_4 0 s2 x1_im_a4 0 -6381.264105408339
Gr2_re_2_4 0 s2 x2_re_a4 0 2456.1564568215967
Gr2_im_2_4 0 s2 x2_im_a4 0 10545.05706267247
Gr3_re_2_4 0 s2 x3_re_a4 0 -299.4774232818523
Gr3_im_2_4 0 s2 x3_im_a4 0 -30.62546441488858
*
* State networks driven by port 2
Cx1_re_a2 x1_re_a2 0 1.0
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562373095
Fx1_re_a2 0 x1_re_a2 V2 7.0710678118654755
Rp1_re_re_a2 0 x1_re_a2 5.49108969419401e-11
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 278779956627.1512
Cx1_im_a2 x1_im_a2 0 1.0
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -278779956627.1512
Rp1_im_im_a2 0 x1_im_a2 5.49108969419401e-11
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 3.868621965856193e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 208527787841.60822
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -208527787841.60822
Rp2_im_im_a2 0 x2_im_a2 3.868621965856193e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.2918818563992312e-09
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 112688420897.11143
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -112688420897.11143
Rp3_im_im_a2 0 x3_im_a2 1.2918818563992312e-09
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 -2.9840803513337756e-08
Fd3_1 0 s3 V1 -1.492040175666888e-06
Gr1_re_3_1 0 s3 x1_re_a1 0 10306.39587450312
Gr1_im_3_1 0 s3 x1_im_a1 0 -23626.23852854817
Gr2_re_3_1 0 s3 x2_re_a1 0 -321.07650678394674
Gr2_im_3_1 0 s3 x2_im_a1 0 -5479.250091512425
Gr3_re_3_1 0 s3 x3_re_a1 0 -581.2663788270245
Gr3_im_3_1 0 s3 x3_im_a1 0 -329.46630757863807
Gd3_2 0 s3 p2 0 -9.984675839175231e-09
Fd3_2 0 s3 V2 -4.992337919587616e-07
Gr1_re_3_2 0 s3 x1_re_a2 0 19662.983503980548
Gr1_im_3_2 0 s3 x1_im_a2 0 -1875.8488920803031
Gr2_re_3_2 0 s3 x2_re_a2 0 -2675.7506255167327
Gr2_im_3_2 0 s3 x2_im_a2 0 -8129.358745840223
Gr3_re_3_2 0 s3 x3_re_a2 0 186.56029046553104
Gr3_im_3_2 0 s3 x3_im_a2 0 -40.36331186175127
Gd3_3 0 s3 p3 0 0.00023567135833275202
Fd3_3 0 s3 V3 0.011783567916637601
Gr1_re_3_3 0 s3 x1_re_a3 0 -308729121.7512736
Gr1_im_3_3 0 s3 x1_im_a3 0 152552325.9995893
Gr2_re_3_3 0 s3 x2_re_a3 0 -66876867.79129939
Gr2_im_3_3 0 s3 x2_im_a3 0 260752762.77354074
Gr3_re_3_3 0 s3 x3_re_a3 0 -1724675.9721014043
Gr3_im_3_3 0 s3 x3_im_a3 0 15126835.180663006
Gd3_4 0 s3 p4 0 6.633726391172355e-08
Fd3_4 0 s3 V4 3.3168631955861773e-06
Gr1_re_3_4 0 s3 x1_re_a4 0 14779.92923128819
Gr1_im_3_4 0 s3 x1_im_a4 0 -41934.21263802692
Gr2_re_3_4 0 s3 x2_re_a4 0 -75258.0756705885
Gr2_im_3_4 0 s3 x2_im_a4 0 -57225.40301539723
Gr3_re_3_4 0 s3 x3_re_a4 0 -66089.20545156806
Gr3_im_3_4 0 s3 x3_im_a4 0 71873.04207160095
*
* State networks driven by port 3
Cx1_re_a3 x1_re_a3 0 1.0
Gx1_re_a3 0 x1_re_a3 p3 0 0.1414213562373095
Fx1_re_a3 0 x1_re_a3 V3 7.0710678118654755
Rp1_re_re_a3 0 x1_re_a3 5.49108969419401e-11
Gp1_re_im_a3 0 x1_re_a3 x1_im_a3 0 278779956627.1512
Cx1_im_a3 x1_im_a3 0 1.0
Gp1_im_re_a3 0 x1_im_a3 x1_re_a3 0 -278779956627.1512
Rp1_im_im_a3 0 x1_im_a3 5.49108969419401e-11
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 3.868621965856193e-11
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 208527787841.60822
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -208527787841.60822
Rp2_im_im_a3 0 x2_im_a3 3.868621965856193e-11
Cx3_re_a3 x3_re_a3 0 1.0
Gx3_re_a3 0 x3_re_a3 p3 0 0.1414213562373095
Fx3_re_a3 0 x3_re_a3 V3 7.0710678118654755
Rp3_re_re_a3 0 x3_re_a3 1.2918818563992312e-09
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 112688420897.11143
Cx3_im_a3 x3_im_a3 0 1.0
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -112688420897.11143
Rp3_im_im_a3 0 x3_im_a3 1.2918818563992312e-09
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 -3.4352087003928994e-09
Fd4_1 0 s4 V1 -1.7176043501964498e-07
Gr1_re_4_1 0 s4 x1_re_a1 0 -1109.2638920587474
Gr1_im_4_1 0 s4 x1_im_a1 0 -9871.086531390582
Gr2_re_4_1 0 s4 x2_re_a1 0 17693.935212777535
Gr2_im_4_1 0 s4 x2_im_a1 0 6574.189744636374
Gr3_re_4_1 0 s4 x3_re_a1 0 -191.10135970397755
Gr3_im_4_1 0 s4 x3_im_a1 0 64.99496397735187
Gd4_2 0 s4 p2 0 -2.363555352057032e-08
Fd4_2 0 s4 V2 -1.181777676028516e-06
Gr1_re_4_2 0 s4 x1_re_a2 0 3358.3316199937694
Gr1_im_4_2 0 s4 x1_im_a2 0 -1029.089723722996
Gr2_re_4_2 0 s4 x2_re_a2 0 16555.983135150025
Gr2_im_4_2 0 s4 x2_im_a2 0 -13537.063728818279
Gr3_re_4_2 0 s4 x3_re_a2 0 502.2796263979049
Gr3_im_4_2 0 s4 x3_im_a2 0 -612.5940574994376
Gd4_3 0 s4 p3 0 4.659306870627081e-08
Fd4_3 0 s4 V3 2.3296534353135408e-06
Gr1_re_4_3 0 s4 x1_re_a3 0 11115.847166918362
Gr1_im_4_3 0 s4 x1_im_a3 0 -61750.831748439385
Gr2_re_4_3 0 s4 x2_re_a3 0 -82737.46989033069
Gr2_im_4_3 0 s4 x2_im_a3 0 -53979.986051054184
Gr3_re_4_3 0 s4 x3_re_a3 0 -67057.925262272
Gr3_im_4_3 0 s4 x3_im_a3 0 71497.16954702935
Gd4_4 0 s4 p4 0 0.0004012817299085513
Fd4_4 0 s4 V4 0.020064086495427565
Gr1_re_4_4 0 s4 x1_re_a4 0 -234364009.9525252
Gr1_im_4_4 0 s4 x1_im_a4 0 245154970.26035568
Gr2_re_4_4 0 s4 x2_re_a4 0 -159566220.45092797
Gr2_im_4_4 0 s4 x2_im_a4 0 338521775.6867896
Gr3_re_4_4 0 s4 x3_re_a4 0 -3480073.2443459895
Gr3_im_4_4 0 s4 x3_im_a4 0 751205.5502609678
*
* State networks driven by port 4
Cx1_re_a4 x1_re_a4 0 1.0
Gx1_re_a4 0 x1_re_a4 p4 0 0.1414213562373095
Fx1_re_a4 0 x1_re_a4 V4 7.0710678118654755
Rp1_re_re_a4 0 x1_re_a4 5.49108969419401e-11
Gp1_re_im_a4 0 x1_re_a4 x1_im_a4 0 278779956627.1512
Cx1_im_a4 x1_im_a4 0 1.0
Gp1_im_re_a4 0 x1_im_a4 x1_re_a4 0 -278779956627.1512
Rp1_im_im_a4 0 x1_im_a4 5.49108969419401e-11
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 3.868621965856193e-11
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 208527787841.60822
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -208527787841.60822
Rp2_im_im_a4 0 x2_im_a4 3.868621965856193e-11
Cx3_re_a4 x3_re_a4 0 1.0
Gx3_re_a4 0 x3_re_a4 p4 0 0.1414213562373095
Fx3_re_a4 0 x3_re_a4 V4 7.0710678118654755
Rp3_re_re_a4 0 x3_re_a4 1.2918818563992312e-09
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 112688420897.11143
Cx3_im_a4 x3_im_a4 0 1.0
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -112688420897.11143
Rp3_im_im_a4 0 x3_im_a4 1.2918818563992312e-09
.ENDS s_equivalent
